US04072696
1.6 G. of 1-acetamido-2-amino-4-benzylthiobenzene is dissolved in 32 ml. acetone and treated with 2.4 g. methoxycarbonylisothiocyanate. The mixture is left overnight at room temperature, then concentrated and the residue triturated with ether. Pure 1-(3-methoxycarbonyl-2-thioureido)-2-acetamido-5-benzylthiobenzene is obtained by recrystallization from methanol.

reactant | 1-acetamido-2-amino-4-benzylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCC1=CC=CC=C1)N | C15H16N2OS
reactant | methoxycarbonylisothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-methoxycarbonyl-2-thioureido)-2-acetamido-5-benzylthiobenzene | COC(=O)NC(NC1=C(C=CC(=C1)SCC1=CC=CC=C1)NC(C)=O)=S | C18H19N3O3S2
